US07754737B2
To a stirred solution of 3-bromothiophenol (5.0 g, 26 mmol) in DMSO (40 mL) was added a solution of KOH pellets (85% by wt, 2.15 g, 32 mmol) in water (4 mL) followed by bromoacetaldehyde diethyl acetal (4.5 mL, 29 mmol). The mixture was stirred at rt for 5 d, diluted with ether (300 mL) and washed with water (3×100 mL). The combined water washes were extracted with ether (100 mL). The combined ether extracts were washed with brine (100 mL), dried over MgSO4 and concentrated to afford (3-bromophenyl)(2,2-diethoxyethyl)sulfane (8.23 g, 100%) as a colorless oil.

reactant | 3-bromothiophenol | 26 mmol, 5.0 g | BrC=1C=C(C=CC1)S | C6H5BrS
reactant | KOH | [OH-].[K+]
reactant | bromoacetaldehyde diethyl acetal | 29 mmol, 4.5 mL | C(C)OC(CBr)OCC | C6H13BrO2
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
solvent | water | 4 mL | O | H2O
solvent | ether | 300 mL | CCOCC | C4H10O
product | (3-bromophenyl)(2,2-diethoxyethyl)sulfane | 8.23 g, 100% | BrC=1C=C(C=CC1)SCC(OCC)OCC | C12H17BrO2S
